US06458802B1
[7-Nitro-6-methoxy-2,3-dihydro-1,4-benzodioxin-2y]methyl 4-Methylbenzenesulfonate
To a solution of 5.91 g (16.9 mmole) of {(2R)-6-methoxy-2,3-dihydro-1,4-benzodioxin-2-ylmethyl 4-methylbenzenesulfonate in 200 mL of 1,2-dichloro-ethane in an ice/water bath was added dropwise a solution of 2.50 mL (59.1 mmole) of fuming nitric acid (d 1.49) in 75 mL of 1,2-dichloroethane and the mixture was stirred for 2 hours at 0° C. After the reaction was complete, it was quenched with ice and diluted with 500 mL of methylene chloride. After the ice had melted, the organic layer was separated and washed with equal volumes of saturated aqueous sodium bicarbonate and saturated brine, dried over magnesium sulfate, filtered and concentrated in vacuum to give 6.19 g of the (R)-enantiomer of the title compound as a light yellow solid. 1H-NMR (CDCl3): doublet 7.8 δ (2 H); multiplet 7.4 δ (3 H); singlet 6.5 δ (1 H); multiplet 4.10-4.5 δ (5 H); singlet 3.85 δ (3 H); singlet 2.5 δ (3 H).

reactant | (2R)-6-methoxy-2,3-dihydro-1,4-benzodioxin-2-ylmethyl 4-methylbenzenesulfonate | 16.9 mmole, 5.91 g | CC1=CC=C(C=C1)S(=O)(=O)OC[C@H]1COC2=C(O1)C=CC(=C2)OC | C17H18O6S
reactant | nitric acid | 59.1 mmole, 2.50 mL | [N+](=O)(O)[O-] | HNO3
solvent | 1,2-dichloro-ethane | 200 mL | ClCCCl | C2H4Cl2
solvent | 1,2-dichloroethane | 75 mL | ClCCCl | C2H4Cl2
product | [7-Nitro-6-methoxy-2,3-dihydro-1,4-benzodioxin-2y]methyl 4-Methylbenzenesulfonate | CC1=CC=C(C=C1)S(=O)(=O)OCC1COC2=C(O1)C=C(C(=C2)OC)[N+](=O)[O-] | C17H17NO8S
